US07102000B2
To a solution of 1-benzyl-6-hydroxy-3,3,5-trimethyl-1,3-dihydro-indol-2-one (1.85 g, 6.60 mmol) in anhydrous dichloromethane (30 mL) was added slowly, under argon at 0° C., pyridine (0.64 mL, 7.92 mmol) followed by triflic anhydride (1.33 mL, 7.92 mmol). The reaction was warmed up to room temperature and stirred overnight. The mixture was washed successively with water, 1N HCl, water, saturated aqueous NaHCO3, water and brine. The organic extract was dried over MgSO4, filtered and evaporated to give 2.6 g of trifluoro-methanesulfonic acid 1-benzyl-3,3,5-trimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl ester (95% yield). 1H NMR (300 MHz; CDCl3): 1.42 (s, 6 H), 2.31 (s, 3 H), 4.87 (s, 2 H), 6.55 (s, 1 H), 7.09 (s, 1 H), 7.29 (m, 5 H).

reactant | 1-benzyl-6-hydroxy-3,3,5-trimethyl-1,3-dihydro-indol-2-one | 6.60 mmol, 1.85 g | C(C1=CC=CC=C1)N1C(C(C2=CC(=C(C=C12)O)C)(C)C)=O | C18H19NO2
reactant | pyridine | 7.92 mmol, 0.64 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 7.92 mmol, 1.33 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid 1-benzyl-3,3,5-trimethyl-2-oxo-2,3-dihydro-1H-indol-6-yl ester | 2.6 g, 95% yield | C(C1=CC=CC=C1)N1C(C(C2=CC(=C(C=C12)OS(=O)(=O)C(F)(F)F)C)(C)C)=O | C19H18F3NO4S
